US04968676
2-(4-Nitro-trans-styryl)pyridine
A solution of 46.5 g (0.5 mole) of 2-methylpyridine and 75.5 g (0.5 mole) of 4-nitrobenzaldehyde in about 100 g of acetic anhydride (about 1 mole) is refluxed for 6 hours, after which it is carefully poured onto ice water. The stirred mixture is neutralized with saturated, aqueous sodium bicarbonate solution. The precipitate is filtered off under suction, washed with water and recrystallized from ethanol to give 66 g (63% of theory) of reddish brown crystals of melting point 136°-139° C.

reactant | 2-methylpyridine | 0.5 mole, 46.5 g | CC1=NC=CC=C1 | C6H7N
reactant | 4-nitrobenzaldehyde | 0.5 mole, 75.5 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | acetic anhydride | about 1 mole, about 100 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-(4-Nitro-trans-styryl)pyridine | [N+](=O)([O-])C1=CC=C(/C=C/C2=NC=CC=C2)C=C1 | C13H10N2O2
